US06521643B1
A suspension of 4-(4-methylpyridin-2-yl)-2-nitrobenzaldehyde (203 mg) and 2-(triphenylphosphoranylidene)propionitrile (0.45 g) in toluene (10 ml) was refluxed for 3 hours. After cooling, to the reaction mixture were added magnesium sulfate and silica gel (10 g), and the suspension was stirred for 30 minutes. The solid was removed by filtration and washed with toluene (10 ml) three times. The combined filtrate was evaporated under reduced pressure to give 2-(4-(4-methylpyridin-2-yl)-2-nitrobenzylidene)propionitrile (221 mg) as a mixture of regioisomers.

reactant | 4-(4-methylpyridin-2-yl)-2-nitrobenzaldehyde | 203 mg | CC1=CC(=NC=C1)C1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C13H10N2O3
reactant | 2-(triphenylphosphoranylidene)propionitrile | 0.45 g | C1(=CC=CC=C1)P(=C(C#N)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H18NP
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-(4-methylpyridin-2-yl)-2-nitrobenzylidene)propionitrile | 221 mg | CC1=CC(=NC=C1)C1=CC(=C(C=C(C#N)C)C=C1)[N+](=O)[O-] | C16H13N3O2
